US06143747
Preparation of N,N-dibenzyl-3(S)-amino-1,2(S)-epoxy-4-phenylbutane
A solution of aS-[Bis(phenylmethyl)amino]benzene-propanaldehyde (191.7 g, 0.58 mol) and chloroiodomethane (56.4 mL, 0.77 mol) in tetrahydrofuran (1.8 L) was cooled to -30 to -35° C. (colder temperature such as -70° C. also worked well but warmer temperatures are more readily achieved in large scale operations) in a stainless steel reactor under a nitrogen atmosphere. A solution of n-butyllithium in hexane (1.6 M, 365 mL, 0.58 mol) was then added at a rate that maintained the temperature below -25° C. After addition the mixture was stirred at -30 to -35° C. for 10 minutes. More additions of reagents were carried out in the following manner: (1) additional chloroiodomethane (17 mL) was added, followed by n-butyllithium (110 mL) at <-25° C. After addition the mixture was stirred at -30 to -35° C. for 10 minutes. This was repeated once. (2) Additional chloroiodomethane (8.5 mL, 0.11 mol) was added, followed by n-butyllithium (55 mL, 0.088 mol) at <-25° C. After addition, the mixture was stirred at -30 to -35° C. for 10 minutes. This was repeated 5 times. (3) Additional chloroiodomethane (8.5 mL, 0.11 mol) was added, followed by n-butyllithium (37 mL, 0.059 mol) at <-25° C. After addition, the mixture was stirred at -30 to -35° C. for 10 minutes. This was repeated once. The external cooling was stopped and the mixture warmed to ambient temp. over 4 to 16 hours when TLC (silica gel, 20% ethyl acetate/hexane) indicated that the reaction was completed. The reaction mixture was cooled to 100° C. and quenched with 1452 g of 16% ammonium chloride solution (prepared by dissolving 232 g of ammonium chloride in 1220 mL of water), keeping the temperature below 230° C. The mixture was stirred for 10 minutes and the organic and aqueous layers were separated. The aqueous phase was extracted with ethyl acetate (2×500 mL). The ethyl acetate layer was combined with the tetrahydrofuran layer. The combined solution was dried over magnesium sulfate (220 g), filtered and concentrated on a rotary evaporator at 65° C. The brown oil residue was dried at 70° C. in vacuo (0.8 bar) for 1 h to give 222.8 g of crude material. (The crude product weight was >100%. Due to the relative instability of the product on silica gel, the crude product is usually used directly in the next step without purification). The diastereomeric ratio of the crude mixture was determined by proton NMR: (2S)/(2R): 86:14. The minor and major epoxide diastereomers were characterized in this mixture by tlc analysis (silica gel, 10% ethyl acetate/hexane), Rf=0.29 & 0.32, respectively. An analytical sample of each of the diastereomers was obtained by purification on silica-gel chromatography (3% ethyl acetate/hexane) and characterized as follows:

reactant | [Bis(phenylmethyl)amino]benzene-propanaldehyde | 0.58 mol, 191.7 g | C1(=CC=CC=C1)CN(CC1=CC=CC=C1)C1=C(C=CC=C1)CCC=O | C23H23NO
reactant | chloroiodomethane | 0.77 mol, 56.4 mL | ClCI | CH2ClI
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.58 mol, 1.6 M, 365 mL | CCCCCC | C6H14
reactant | chloroiodomethane | 17 mL | ClCI | CH2ClI
reactant | n-butyllithium | 110 mL | C(CCC)[Li]
reactant | chloroiodomethane | 0.11 mol, 8.5 mL | ClCI | CH2ClI
reactant | n-butyllithium | 0.088 mol, 55 mL | C(CCC)[Li]
reactant | chloroiodomethane | 0.11 mol, 8.5 mL | ClCI | CH2ClI
reactant | n-butyllithium | 0.059 mol, 37 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 1.8 L | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N,N-dibenzyl-3(S)-amino-1,2(S)-epoxy-4-phenylbutane | C(C1=CC=CC=C1)N([C@H]([C@H]1CO1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H25NO
